US08383621B2
Step 2: 2-[4-(4-(4-Ethyl-5-fluoro-2-hydroxyphenoxy)-3-fluorobenzoyl]-2-oxopiperazin-1-yl)acetamide
A commercial solution of boron tribromide (1N in DCM, 0.84 mL, 0.84 mmol) was added to a solution of 2-[4-(4-(4-ethyl-5-fluoro-2-methoxyphenoxy)-3-fluorobenzoyl]-2-oxopiperazin-1-yl)acetamide (which may be prepared in accordance with the experimental described in Example 6, step 1; 140 mg, 0.31 mmol) in dichloromethane (1 mL) placed under argon at −30° C. The reaction mixture was stirred at room temperature overnight and diluted by addition of dichloromethane (20 mL) and a saturated solution of ammonium chloride (20 mL). After separation, the aqueous layer was extracted with dichloromethane (2×20 mL). The combined organic phases were dried over sodium sulfate, filtered and concentrated under vacuum. The residue was purified by chromatography on silica gel, using dichloromethane/methanol (95:5 to 90:10) as eluent. The title product was obtained as a white solid (30 mg, 22%).

reactant | boron tribromide | 0.84 mmol, 1N, 0.84 mL | B(Br)(Br)Br | BBr3
reactant | 2-[4-(4-(4-ethyl-5-fluoro-2-methoxyphenoxy)-3-fluorobenzoyl]-2-oxopiperazin-1-yl)acetamide | C(C)C1=CC(=C(OC2=C(C=C(C(=O)N3CC(N(CC3)CC(=O)N)=O)C=C2)F)C=C1F)OC | C22H23F2N3O5
reactant | ammonium chloride | 20 mL | [Cl-].[NH4+]
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 2-[4-(4-(4-Ethyl-5-fluoro-2-hydroxyphenoxy)-3-fluorobenzoyl]-2-oxopiperazin-1-yl)acetamide | C(C)C1=CC(=C(OC2=C(C=C(C(=O)N3CC(N(CC3)CC(=O)N)=O)C=C2)F)C=C1F)O | C21H21F2N3O5
